US05010060
0.18 g of 2-thiopheneacetylchloride was added to a solution of 0.255 g of 5'-amino-2',5'-dideoxy-5-ethyluridine in 5 ml of water containing 1.2 ml of 1M sodium hydroxide solution and the resulting mixture was shaken vigorously for 10 minutes. The resulting white solid was collected by filtration, washed with water, dried at 50° C. in vacuo over phosphorus pentoxide and recrystallized from ethanol to give 0.2 g of 2',5'-dideoxy-5-ethyl-5'-[2-(2-thienyl)acetamido]uridine of melting point 215°-217° C.

reactant | 2-thiopheneacetylchloride | 0.18 g | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | 5'-amino-2',5'-dideoxy-5-ethyluridine | 0.255 g | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O | C11H17N3O4
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | 2',5'-dideoxy-5-ethyl-5'-[2-(2-thienyl)acetamido]uridine | 0.2 g | C(C)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CNC(CC=3SC=CC3)=O)O2)C1)=O)=O | C17H21N3O5S
